US08383644B2
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester (0.14 g, 0.22 mmol) was taken in 1 mL of MeOH:THF (4:1) and cooled to 0° C.; KOH (0.54 mL, 2.5 N) was added and stirred at room temperature for 12 hours. KOH (0.36 mL, 2.5 N) was added and stirred for 24 hours. Then, HCl (2.4 mL, 1 N) was added to the reaction and the product was extracted with EtOAc. The ethyl acetate layer was separated and washed with water and brine, and then dried over Na2SO4, filtered, and evaporated to get (3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (0.11 g). LCMS (m/z): 605.

reactant | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | 0.22 mmol, 0.14 g | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl)[C@@H](CC)C3=CC=CC=C3 | C35H33Cl2NO5
reactant | KOH | 2.5 N, 0.54 mL | [OH-].[K+]
reactant | KOH | 2.5 N, 0.36 mL | [OH-].[K+]
reactant | HCl | 1 N, 2.4 mL | Cl | ClH
solvent | MeOH THF | 1 mL | CO.C1CCOC1
product | (3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 0.11 g | ClC=1C=C(COC=2C=C(C=CC2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C34H31Cl2NO5
